US07601726B2
The solution of {[2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-chloro-methyl}-(2-methanesulfonyl-1-methyl-ethylidene)-amine was added to a solution of BOC carbazate (766 g) and 2,6-lutidine (930 g) in tetrahydrofuran (2.0 liters) at 5° C. The reaction mixture was stirred at 25° C. for 24 hours. The reaction mixture was quenched with water (3.0 liters) diluted with methylene chloride (2.0 liters) and the reaction pH was adjusted to pH 3 by addition of 4N HCl (2.4 liters). The layers were separated and the organic layer was washed with saturated sodium bicarbonate (2.0 liters) and a 1:1 mixture of water and saturated brine. The organic layer was concentrated under reduced pressure for 12 hours to give N′-[[2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-((R)-2-methanesulfonyl-1-methyl-ethylamino)-methylene]-hydrazinecarboxylic acid tert-butyl ester (2.0 kg, quantitative) as a pale yellow powder.

reactant | {[2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-chloro-methyl}-(2-methanesulfonyl-1-methyl-ethylidene)-amine | FC1=C(OC2=NC=C(C(=N2)OC2=C(C=C(C=C2)F)F)C(Cl)N=C(CS(=O)(=O)C)C)C=CC(=C1)F | C21H16ClF4N3O4S
reactant | BOC carbazate | 766 g | C(NN)(=O)OC(=O)OC(C)(C)C | C6H12N2O4
reactant | 2,6-lutidine | 930 g | N1=C(C=CC=C1C)C | C7H9N
reactant | tetrahydrofuran | 2.0 liters | O1CCCC1 | C4H8O
product | N′-[[2,4-bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-((R)-2-methanesulfonyl-1-methyl-ethylamino)-methylene]-hydrazinecarboxylic acid tert-butyl ester | 2.0 kg | C(C)(C)(C)OC(=O)NN=C(N[C@@H](CS(=O)(=O)C)C)C=1C(=NC(=NC1)OC1=C(C=C(C=C1)F)F)OC1=C(C=C(C=C1)F)F | C26H27F4N5O6S
